US06900215B2
3-Bromo-7-(1,1-difluoroethyl)imidazo[1,2-α]pyrimidine (113 mg, 0.43 mmol) was coupled with 3-[2-fluoro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]pyridine as described in Example 1 to give 7-(1,1-difluoroethyl)-3-[4-fluoro-3-(pyridin-3-yl)phenyl]imidazo[1,2-α]pyrimidine as a white powder: δH (360 MHz, DMSO) 2.11 (3H, t, J 7), 7.36 (1H, d, J 7), 7.55-7.64 (2H, m), 7.83-7.87 (1H, m), 7.99-8.01 (1H, m), 8.11-8.13 (1H, m), 8.21 (1H, s), 8.66 (1H, dd, J 5 and 1), 8.91 (1H, s), 9.27 (1H, d, J 7).

reactant | 3-Bromo-7-(1,1-difluoroethyl)imidazo[1,2-α]pyrimidine | 0.43 mmol, 113 mg | BrC1=CN=C2N1C=CC(=N2)C(C)(F)F | C8H6BrF2N3
reactant | 3-[2-fluoro-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)phenyl]pyridine | FC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC=CC1 | C17H19BFNO2
product | 7-(1,1-difluoroethyl)-3-[4-fluoro-3-(pyridin-3-yl)phenyl]imidazo[1,2-α]pyrimidine | FC(C)(F)C1=NC=2N(C=C1)C(=CN2)C2=CC(=C(C=C2)F)C=2C=NC=CC2 | C19H13F3N4
